US06476041B1
4-Benzyl-3-methyl-piperidine:
A solution of 2.7 g of 1-benzyl-4-benzylidene-3-methyl-piperidine and 2 g of 20% palladium hydroxide on carbon in 125 mL of ethanol was shaken 3 days under 55 psi of hydrogen. The catalyst was filtered off and the solution concentrated to give 2 g of a mixture of cis and trans-4-benzyl-3-methyl-piperidine as an oil.

reactant | 1-benzyl-4-benzylidene-3-methyl-piperidine | 2.7 g | C(C1=CC=CC=C1)N1CC(C(CC1)=CC1=CC=CC=C1)C | C20H23N
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 125 mL | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 2 g | [OH-].[OH-].[Pd+2]
product | 4-Benzyl-3-methyl-piperidine | 2 g | C(C1=CC=CC=C1)C1C(CNCC1)C | C13H19N
